* ch03_03_cs_current_source_load: common-source with ideal current-source load
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vin in 0 DC 0.72 AC 1m
Iload vdd out DC 160u
M1 out in 0 0 NMOS W=4u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
op
print v(out) @m1[gm] @m1[gds]
ac dec 80 10 10G
wrdata ../../results/ch03_03_cs_current_source_load_ac.dat frequency vdb(out) vp(out)
quit
.endc
.end

