* ch03_02_cs_diode_connected_load: common-source with diode-connected PMOS load
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vin in 0 DC 0.72 AC 1m
M1 out in 0 0 NMOS W=4u L=0.18u
M2 out out vdd vdd PMOS W=8u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames

* ==========================================
* 1. DC 扫描：提取 VTC 曲线与增益
* ==========================================
dc Vin 0 1.8 0.005

plot v(out) vs v(in) title "VTC: Diode-Connected Load"
plot -deriv(v(out)) vs v(in) title "DC Gain: Diode-Connected Load"

wrdata ../../results/ch03_02_cs_diode_connected_load_dc.dat v(in) v(out) i(vdd)

* ==========================================
* 2. AC 扫描：提取波特图
* ==========================================
ac dec 80 10 10G

let gain_db = vdb(out)-vdb(in)
let phase_deg = 180/PI*(vp(out)-vp(in))

plot gain_db title "AC Voltage Gain (dB)"
plot phase_deg title "AC Phase Shift (Degrees)"

wrdata ../../results/ch03_02_cs_diode_connected_load_ac.dat gain_db phase_deg

* quit
.endc
.end

