* ch03_04_cs_pmos_active_load: common-source with PMOS current-source load
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vin in 0 DC 0.72 AC 1m
Vbp bp 0 DC 1.0
M1 out in 0 0 NMOS W=4u L=0.18u
M2 out bp vdd vdd PMOS W=8u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
op
print v(out) @m1[gm] @m2[gds]
ac dec 80 10 10G
wrdata ../../results/ch03_04_cs_pmos_active_load_ac.dat frequency vdb(out) vp(out)
quit
.endc
.end

