* ch03_05_cs_triode_load: common-source with PMOS biased in triode as load
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vin in 0 DC 0.72 AC 1m
Vgload gload 0 DC 0.25
M1 out in 0 0 NMOS W=4u L=0.18u
M2 out gload vdd vdd PMOS W=6u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
dc Vin 0 1.8 0.005
wrdata ../../results/ch03_05_cs_triode_load_dc.dat v(in) v(out) i(vdd)
ac dec 80 10 10G
wrdata ../../results/ch03_05_cs_triode_load_ac.dat frequency vdb(out) vp(out)
quit
.endc
.end

