* ch04_06_current_mirror_load_diff_pair: active current mirror load
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vcm cm 0 DC 0.85
Vdm dm 0 DC 0 AC 1m
Bip inp 0 v={v(cm)+v(dm)/2}
Bin inm 0 v={v(cm)-v(dm)/2}
M1 x inp tail 0 NMOS W=8u L=0.18u
M2 out inm tail 0 NMOS W=8u L=0.18u
M3 x x vdd vdd PMOS W=10u L=0.18u
M4 out x vdd vdd PMOS W=10u L=0.18u
Itail tail 0 DC 160u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
dc Vdm -0.3 0.3 0.002
wrdata ../../results/ch04_06_current_mirror_load_diff_pair_dc.dat v(dm) v(out) v(x)
ac dec 80 10 10G
wrdata ../../results/ch04_06_current_mirror_load_diff_pair_ac.dat frequency vdb(out) vp(out)
quit
.endc
.end

