* ch04_03_diff_pair_common_mode: common-mode response with finite tail resistance
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vcm cm 0 DC 0.85 AC 1m
Vdm dm 0 DC 0 AC 0
Bip inp 0 v={v(cm)+v(dm)/2}
Bin inm 0 v={v(cm)-v(dm)/2}
Rd1 vdd outp 8k
Rd2 vdd outn 8k
Rtail tail 0 250k
Itail tail 0 DC 160u
M1 outp inp tail 0 NMOS W=8u L=0.18u
M2 outn inm tail 0 NMOS W=8u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
ac dec 80 10 10G
wrdata ../../results/ch04_03_diff_pair_common_mode.dat frequency vdb(outp) vp(outp)
quit
.endc
.end

