* ch03_10_folded_cascode_stage: simplified folded-cascode branch
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vin in 0 DC 0.72 AC 1m
Vbp bp 0 DC 0.85
Ibias vdd fold DC 260u
Iout out 0 DC 120u
M1 fold in 0 0 NMOS W=4u L=0.18u
M2 out bp fold vdd PMOS W=10u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
op
print v(out) v(fold) @m1[gm] @m2[gds]
ac dec 80 10 10G
wrdata ../../results/ch03_10_folded_cascode_stage_ac.dat frequency vdb(out) vp(out)
quit
.endc
.end

