* ch04_07_gilbert_cell_mixer: six-transistor Gilbert cell
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vrfp rfp 0 SIN(0.85 5m 20Meg)
Vrfn rfn 0 SIN(0.85 5m 20Meg 0 0 180)
Vlop lop 0 PULSE(0.55 1.15 0 0.5n 0.5n 25n 50n)
Vlon lon 0 PULSE(1.15 0.55 0 0.5n 0.5n 25n 50n)
Rd1 vdd outp 5k
Rd2 vdd outn 5k
M1 n1 rfp tail 0 NMOS W=12u L=0.18u
M2 n2 rfn tail 0 NMOS W=12u L=0.18u
M3 outp lop n1 0 NMOS W=8u L=0.18u
M4 outn lon n1 0 NMOS W=8u L=0.18u
M5 outp lon n2 0 NMOS W=8u L=0.18u
M6 outn lop n2 0 NMOS W=8u L=0.18u
Itail tail 0 DC 220u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
tran 0.1n 500n
let voutdiff = v(outp) - v(outn)
wrdata ../../results/ch04_07_gilbert_cell_mixer_tran.dat time v(rfp) v(lop) voutdiff
quit
.endc
.end

