* ch02_05_mos_gate_capacitance: estimate gate capacitance from AC current
.include ../../models/educational_cmos.inc
Vgate gate 0 DC 0.9 AC 1
M1 0 gate 0 0 NMOS W=40u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
ac dec 40 1k 1g
let cgate = abs(imag(i(vgate))) / (6.283185307 * frequency)
plot cgate xlog title "Gate Capacitance vs Frequency"
wrdata ../../results/ch02_05_mos_gate_capacitance.dat frequency cgate

.endc
.end

