* ch04_05_mos_load_diff_pair: differential pair with PMOS current-source loads
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vcm cm 0 DC 0.85
Vdm dm 0 DC 0 AC 1m
Vbp bp 0 DC 1.05
Bip inp 0 v={v(cm)+v(dm)/2}
Bin inm 0 v={v(cm)-v(dm)/2}
M1 outp inp tail 0 NMOS W=8u L=0.18u
M2 outn inm tail 0 NMOS W=8u L=0.18u
M3 outp bp vdd vdd PMOS W=10u L=0.18u
M4 outn bp vdd vdd PMOS W=10u L=0.18u
Itail tail 0 DC 160u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
op
print v(outp) v(outn)
ac dec 80 10 10G
wrdata ../../results/ch04_05_mos_load_diff_pair_ac.dat frequency vdb(outp,outn) vp(outp,outn)
quit
.endc
.end

