* ch04_04_source_degenerated_diff_pair: differential pair with source degeneration
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vcm cm 0 DC 0.95
Vdm dm 0 DC 0
Bip inp 0 v={v(cm)+v(dm)/2}
Bin inm 0 v={v(cm)-v(dm)/2}
Rd1 vdd outp 7k
Rd2 vdd outn 7k
Rs1 s1 tail 600
Rs2 s2 tail 600
M1 outp inp s1 0 NMOS W=12u L=0.18u
M2 outn inm s2 0 NMOS W=12u L=0.18u
Itail tail 0 DC 180u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
dc Vdm -1.0 1.0 0.005
let voutdiff = v(outp) - v(outn)
wrdata ../../results/ch04_04_source_degenerated_diff_pair.dat v(dm) voutdiff v(outp) v(outn)
quit
.endc
.end

