* ch03_07_source_follower: common-drain source follower
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Vin in 0 DC 0.95 AC 1m
Ibias out 0 DC 120u
M1 vdd in out 0 NMOS W=10u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
dc Vin 0.45 1.8 0.005
wrdata ../../results/ch03_07_source_follower_dc.dat v(in) v(out)
ac dec 80 10 10G
wrdata ../../results/ch03_07_source_follower_ac.dat frequency vdb(out) vp(out)
quit
.endc
.end

